// Generated for: spectre
// Generated on: Apr 28 17:08:23 2026
// Design library name: ese6680
// Design cell name: Project3_MDAC_test
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ese6680
// Cell name: Project1_Opamp
// View name: schematic
subckt Project1_Opamp GND VDD Vin\+ Vin\- Vout
    M4 (net70 net66 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M3 (net66 net66 GND GND) ami06N w=8.7u l=1.8u as=1.305e-11 \
        ad=1.305e-11 ps=20.4u pd=20.4u m=1 region=sat
    M6 (Vout net70 GND GND) ami06N w=58.05u l=900n as=8.7075e-11 \
        ad=8.7075e-11 ps=119.1u pd=119.1u m=1 region=sat
    Cc (net80 Vout) capacitor c=1p m=1
    M7 (Vout net65 VDD VDD) ami06P w=133.95u l=1.2u as=2.00925e-10 \
        ad=2.00925e-10 ps=270.9u pd=270.9u m=1 region=sat
    M5 (net09 net65 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M8 (net65 net65 VDD VDD) ami06P w=40.05u l=1.2u as=6.0075e-11 \
        ad=6.0075e-11 ps=83.1u pd=83.1u m=1 region=sat
    M2 (net70 Vin\+ net09 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    M1 (net66 Vin\- net09 VDD) ami06P w=49.95u l=1.8u as=7.4925e-11 \
        ad=7.4925e-11 ps=102.9u pd=102.9u m=1 region=sat
    Iref (net65 GND) isource type=dc dc=60u m=1
    Rc (net70 net80) resistor r=1K m=1
ends Project1_Opamp
// End of subcircuit definition.

// Library name: ese6680
// Cell name: Project3_MDAC
// View name: schematic
subckt Project3_MDAC GND Phi1 Phi1E Phi2 VDD Vin\+ Vin\- Vout
    I0 (GND VDD net035 net2 Vout) Project1_Opamp
    Cs (net1 net2) capacitor c=2p m=1
    Cf (net2 net3) capacitor c=1p m=1
    N6 (iPhi2 Phi2 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N5 (iPhi1 Phi1 GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N3 (Vin\+ Phi2 net1 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (net1 Phi1 Vin\- GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (net2 Phi1E net037 GND) ami06N w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    N1 (net027 Phi1 net3 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (Vout Phi2 net3 GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    V2 (net027 GND) vsource type=dc dc=2.5
    V0 (net035 GND) vsource type=dc dc=2.5
    V1 (net037 GND) vsource type=dc dc=2.5
    P5 (iPhi2 Phi2 VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (iPhi1 Phi1 VDD VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P0 (net1 iPhi1 Vin\- VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P3 (Vin\+ iPhi2 net1 VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (net027 iPhi1 net3 VDD) ami06P w=1.5u l=600n as=2.25e-12 \
        ad=2.25e-12 ps=6u pd=6u m=1 region=sat
    P1 (Vout iPhi2 net3 VDD) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends Project3_MDAC
// End of subcircuit definition.

// Library name: ese6680
// Cell name: Project3_MDAC_test
// View name: schematic
I0 (0 Phi1 Phi1E Phi2 net3 Vin\+ Vin\- Vout) Project3_MDAC
V5 (Vin\- 0) vsource type=dc dc=2.5
V0 (net3 0) vsource type=dc dc=5
V4 (Vin\+ 0) vsource type=pulse val0=2 val1=3 period=1u rise=1n fall=1n \
        width=500n
V3 (Phi1E 0) vsource type=pulse val0=0 val1=5 period=500n delay=0 rise=1n \
        fall=1n width=200n
V2 (Phi2 0) vsource type=pulse val0=0 val1=5 period=500n delay=250n \
        rise=1n fall=1n width=220n
V1 (Phi1 0) vsource type=pulse val0=0 val1=5 period=500n delay=0 rise=1n \
        fall=1n width=220n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=5u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I0.V2:p I0.V2:p 
saveOptions options save=allpub
